US07375204B2
1-(3-Methoxyphenyl)-2-nitro-1-ethanol
An aqueous sodium hydroxide solution (1.5 g of sodium hydroxide (37 mmol) was dissolved in 15 ml of water) was added dropwise to a solution of m-anisaldehyde (5.0 g, 37 mmol) and nitromethane (4.0 ml, 73 mmol) in methanol (50 ml) keeping the temperature of the solution at not higher than 30° C. The reaction mixture was then stirred at room temperature for 4 hours. Upon cooling on ice, an aqueous acetic acid solution (glacial acetic acid (37 mmol) was dissolved in 250 ml of water) was added, the resulting reaction mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with water and a 5% aqueous sodium hydrogencarbonate solution, dried over anhydrous magnesium sulfate, then concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound (6.09 g).

reactant | sodium hydroxide | 37 mmol, 15 ml, 1.5 g | [OH-].[Na+]
reactant | m-anisaldehyde | 37 mmol, 5.0 g | C(C1=CC(=CC=C1)OC)=O | C8H8O2
reactant | nitromethane | 73 mmol, 4.0 ml | [N+](=O)([O-])C | CH3NO2
reactant | acetic acid | 37 mmol, 250 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
product | 1-(3-Methoxyphenyl)-2-nitro-1-ethanol | 6.09 g | COC=1C=C(C=CC1)C(C[N+](=O)[O-])O | C9H11NO4
